US07902367B2
Step 168a) 3-[3-[(4′-Chlorobiphenyl-4-yl)methoxy]piperidin-1-yl]benzaldehyde
Tetrabutylammonium iodide (26.9 mg, 0.0729 mmol) and potassium carbonate (206 mg, 1.46 mmol) were added to a solution of 3-[(4′-chlorobiphenyl-4-yl)methoxy]piperidine (220 mg, 0.729 mmol) and 2-fluorobenzaldehyde (0.159 mL, 1.46 mmol) in N,N-dimethylformamide (5 mL). The mixture was stirred at 100° C. for 8 hours. Subsequently, water was added and the mixture was extracted with ethyl acetate and washed with brine. The washed product was dried over magnesium sulfate and the solvent was evaporated. Purification of the resulting residue by silica gel column chromatography (hexane:ethyl acetate=40:1->10:1) gave 156 mg (53%) of the desired compound as a pale yellow powder.

reactant | potassium carbonate | 1.46 mmol, 206 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-[(4′-chlorobiphenyl-4-yl)methoxy]piperidine | 0.729 mmol, 220 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)COC1CNCCC1 | C18H20ClNO
reactant | 2-fluorobenzaldehyde | 1.46 mmol, 0.159 mL | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | water | O | H2O
catalyst | Tetrabutylammonium iodide | 0.0729 mmol, 26.9 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-[3-[(4′-Chlorobiphenyl-4-yl)methoxy]piperidin-1-yl]benzaldehyde | 156 mg, 53% | ClC1=CC=C(C=C1)C1=CC=C(C=C1)COC1CN(CCC1)C=1C=C(C=O)C=CC1 | C25H24ClNO2
